US05856573
Synthesis of (E)-2-[2-(5-chloro-3-trifluoromethylpyridin-2-yloxymethyl)phenyl]-2-methoxyimino-N-methylacetamide
2-(2-Hydroxymethylphenyl)-2-methoxyimino-N-methylacetamide (300 mg) was dissolved in THF (5 ml). 40% sodium hydride (65 mg) was added, and the mixture was stirred for 10 minutes. 2,5-Dichloro-3-trifluoromethylpyridine (350 mg) was added, and the mixture was stirred at room temperature for 12 hours. The mixture was neutralized with 1N-hydrochloric acid and extracted with ethyl acetate. The resulting organic layer was dried over MgSO4, and the solvent was evaporated under reduced pressure. The resulting residue was purified by column chromatography on silica gel to obtain the title compound (398 mg, Yield: 74%).

reactant | 2-(2-Hydroxymethylphenyl)-2-methoxyimino-N-methylacetamide | 300 mg | OCC1=C(C=CC=C1)C(C(=O)NC)=NOC | C11H14N2O3
reactant | sodium hydride | 65 mg | [H-].[Na+]
reactant | 2,5-Dichloro-3-trifluoromethylpyridine | 350 mg | ClC1=NC=C(C=C1C(F)(F)F)Cl | C6H2Cl2F3N
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (E)-2-[2-(5-chloro-3-trifluoromethylpyridin-2-yloxymethyl)phenyl]-2-methoxyimino-N-methylacetamide | 398 mg, Yield: 74% | ClC=1C=C(C(=NC1)OCC1=C(C=CC=C1)\C(\C(=O)NC)=N/OC)C(F)(F)F | C17H15ClF3N3O3
